US04420477
A mixture of 7-[2-(2-propynyloxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer: in the 7-position) (2.0 g) and sodium acetate.trihydrate (3.71 g) in water (15 ml) was stirred overnight at room temperature. The solution was adjusted to pH 2.5 with 10% hydrochloric acid under ice-cooling and the resultant precipitates were filtered and washed with water to give 7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer: in the 7-position).(1.12 g).

reactant | 7-[2-(2-propynyloxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5yl]thiomethyl-3-cephem-4-carboxylic acid | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NOC)C(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C23H19F3N10O9S3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NOC)C(=O)O)C(=O)O)C1=O)C=1N=C(SC1)N | C21H20N10O8S3
